2142-08-17 08:18:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - START [**2142-8-16**] 09:54 PM
   Stable overnight from resp standpoint though O2 needs remain very high
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2142-8-17**] 01:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-8-17**] 08:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.4
C (97.5
   HR: 92 (92 - 118) bpm
   BP: 95/63(70) {93/56(65) - 126/77(88)} mmHg
   RR: 31 (25 - 35) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,526 mL
                                                                  1,087 mL
   PO:
                                                                    360 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    666 mL
                                                                    967 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    475 mL
   Urine:
   475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,526 mL
                                                                    612 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 89%
   ABG: ///17/
   Physical Examination
   Awake, alert, mild resp distress
   Neck suppple
   Hrt
 rrr
   Lungs
 crackles and bronchial BS
s right base
   Abd
 benign
   Extrem no edema
   Labs / Radiology
   10.6 g/dL
   252 K/uL
   183 mg/dL
   1.1 mg/dL
   17 mEq/L
   4.1 mEq/L
   23 mg/dL
   113 mEq/L
   141 mEq/L
   33.1 %
   17.1 K/uL
        [image002.jpg]
                             [**2142-8-17**]  03:33 AM
   WBC
   17.1
   Hct
   33.1
   Plt
   252
   Cr
   1.1
   Glucose
   183
   Other labs: PT / PTT / INR:15.0/131.0/1.3, Ca++:8.1 mg/dL, Mg++:1.9
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 PNEUMONIA
 cont abx
 vanco, cefepime, azithro, wean O2 as tolerated
   h/o PE
 continue lovenox
   metastatic esophageal cancer
 apparently no further treatment options
   DM -  SSI
   ICU Care
   Nutrition: keep NPO until this eve
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2142-8-16**] 09:54 PM
   20 Gauge - [**2142-8-16**] 09:55 PM
   Prophylaxis:
   DVT: on lovenox
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR but aggreable to intubation
   Disposition :  ICU
   Total time spent:  35

2142-08-18 06:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**8-17**]
   - blood culture positive for GNR
   - added tobramycin (descussed with ID) to Cefepime for double GNR
   coverage.  Also on Vanc and azithro.
   - started diet at clear, advance to liquids (check with nurse)
   - d/c'd maintenance fluids [**3-19**] PO intake
   - 1 x 500cc bolus due to bacteremia
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2142-8-17**] 10:58 AM
   Vancomycin - [**2142-8-17**] 08:00 PM
   Tobramycin - [**2142-8-17**] 10:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2142-8-17**] 08:00 PM
   Enoxaparin (Lovenox) - [**2142-8-18**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-8-18**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 99 (85 - 101) bpm
   BP: 134/87(98) {101/66(73) - 142/93(100)} mmHg
   RR: 29 (19 - 35) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,143 mL
                                                                    564 mL
   PO:
                                                                    520 mL
             TF:
   IVF:
                                                                  2,623 mL
                                                                    564 mL
   Blood products:
   Total out:
                                                                  1,775 mL
                                                                    650 mL
   Urine:
                                                                  1,775 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,368 mL
                                                                    -86 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 92%
   ABG: ///23/
   Physical Examination
   GENERAL: Pleasant, well appearing ..... in NAD
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**].  JVP=
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Preserved sensation
   throughout. 5/5 strength throughout. [**2-16**]+ reflexes, equal BL. Normal
   coordination. Gait assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   244 K/uL
   10.6 g/dL
   109 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.3 mEq/L
   13 mg/dL
   109 mEq/L
   142 mEq/L
   33.3 %
   11.0 K/uL
        [image002.jpg]
                             [**2142-8-17**]  03:33 AM
                             [**2142-8-18**]  05:19 AM
   WBC
   17.1
   11.0
   Hct
   33.1
   33.3
   Plt
   252
   244
   Cr
   1.1
   1.0
   Glucose
   183
   109
   Other labs: PT / PTT / INR:15.0/131.0/1.3, Ca++:8.6 mg/dL, Mg++:2.0
   mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PNEUMONIA, OTHER
   This is a 62 year-old man with esophageal cancer metastatic to the
   lungs and brain who presents with shortness of breath and fever.
   .
   #  Shortness of breath/Hypoxia:  Most likely represents pneumonia.
   Also on the differential would be progression of his metastatic lung
   disease, however the acute presentation with associated fever and
   leukocytosis would go against this.  Also, with underlying malignancy,
   tachycardia, low-grade temp, and hypoxia, as well as history of PE,
   cannot rule out PE here; however the patient is on chronic lovenox.
   - cont supplemental O2 as needed
   - albuterol and atrovent nebs prn
   - cont vancomycin and cefepime to cover empirically for HCAP
   - send urine legionella
   - cont heparin gtt for now, consider switch to lovenox
   - check CTA to r/o PE and also evaluate lung parenchyma
   .
   #  Fever/Leukocytosis:  Most likely source at this point is a bacterial
   pneumonia.  Blood cultures are pending.  He continues to have a
   low-grade temp, SOB is improving, only mild cough.  Given
   immunosuppression on chronic prednisone need to also consider viral or
   fungal etiologies as well. PCP less likely given he is on dapsone
   prophylaxis.
   - cont vancomycin and cefepime as above
   - cont to monitor fever curve and WBC
   - tylenol prn fever
   - f/u blood culture
   - send UA, urine culture
   - send sputum culture if able
   .
   #  Esophageal cancer:
   - will touch base with his primary oncologist's office tomorrow (though
   the oncologist is currently out of town)
   - cont prednisone
   .
   #  Diabetes Type II:
   - will cover with humalog sliding scale
   - assess insulin requirments and consider long-acting if needed
   .
   # FEN: No IVF for now, encourage PO fluids, replete electrolytes prn,
   regular diet
   .
   # Prophylaxis: heparin gtt, cont oupt PPI, bowel regimen
   .
   # Access: R port-a-cath, peripherals
   .
   # Code: DNR but ok to intubate, confirmed with patient and his wife, he
   clearly states that he would not want prolonged intubation
   .
   # Communication: Patient
   - wife [**Name (NI) 225**] [**Name (NI) 7496**] [**Name (NI) 7497**] [**Telephone/Fax (1) 7498**]
   - the patient confirmed that he does not want to know details regarding
   prognosis or future predictions regarding his disease
   .
   # Disposition: ICU for now pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2142-8-16**] 09:54 PM
   20 Gauge - [**2142-8-16**] 09:55 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2142-08-18 08:11:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   BCx pos for GNR
   Perhaps a bit less SOB
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2142-8-17**] 10:58 AM
   Tobramycin - [**2142-8-17**] 10:00 PM
   Vancomycin - [**2142-8-18**] 07:27 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2142-8-17**] 08:00 PM
   Enoxaparin (Lovenox) - [**2142-8-18**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-8-18**] 08:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.2
   HR: 85 (82 - 101) bpm
   BP: 134/86(98) {110/70(79) - 155/93(100)} mmHg
   RR: 25 (19 - 35) insp/min
   SpO2: 92% shovel mask  + NC
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,143 mL
                                                                  1,022 mL
   PO:
                                                                    520 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  2,623 mL
                                                                    782 mL
   Blood products:
   Total out:
                                                                  1,775 mL
                                                                    650 mL
   Urine:
                                                                  1,775 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,368 mL
                                                                    372 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 92%
   ABG: ///23/
   Physical Examination
   Mild resp distress at rest
   Heent unremarkable
   Neck supple
   Hrt rrr
   Lungs bronchial and crackles RLL, diffuse wheezes
   Port right SC
   Abd benign
   Extrem no edema
   Labs / Radiology
   10.6 g/dL
   244 K/uL
   109 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.3 mEq/L
   13 mg/dL
   109 mEq/L
   142 mEq/L
   33.3 %
   11.0 K/uL
        [image002.jpg]
                             [**2142-8-17**]  03:33 AM
                             [**2142-8-18**]  05:19 AM
   WBC
   17.1
   11.0
   Hct
   33.1
   33.3
   Plt
   252
   244
   Cr
   1.1
   1.0
   Glucose
   183
   109
   Other labs: PT / PTT / INR:15.0/131.0/1.3, Ca++:8.6 mg/dL, Mg++:2.0
   mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 PNEUMONIA/hypoxemia/bacteremia
 cont abx
 vanco, cefepime,
   tobramycin
 follow trough, wean O2 as tolerated, cont nebs, follow
   surveillance cultures, consider echo
   h/o PE
 continue lovenox
   metastatic esophageal cancer
 apparently no further treatment options
   DM -  SSI
   ICU Care
   Nutrition: advance diet
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2142-8-16**] 09:54 PM
   20 Gauge - [**2142-8-16**] 09:55 PM
   Prophylaxis:
   DVT:  on lovenox
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  DNR but OK with intubation
   Disposition :  ICU until O2 needs less than 50%
   Total time spent: 35

2142-08-19 05:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**8-18**]
   - no acute events overnight
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2142-8-18**] 10:43 AM
   Vancomycin - [**2142-8-18**] 08:00 PM
   Tobramycin - [**2142-8-18**] 10:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2142-8-18**] 08:00 PM
   Enoxaparin (Lovenox) - [**2142-8-19**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-8-19**] 05:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.6
   HR: 81 (81 - 102) bpm
   BP: 126/78(89) {95/75(82) - 155/92(102)} mmHg
   RR: 24 (21 - 35) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,530 mL
                                                                     54 mL
   PO:
                                                                  1,140 mL
             TF:
   IVF:
                                                                  1,390 mL
                                                                     54 mL
   Blood products:
   Total out:
                                                                  2,950 mL
                                                                      0 mL
   Urine:
                                                                  2,950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -420 mL
                                                                     54 mL
   Respiratory support
   O2 Delivery Device: 100% Face tent, 6 L NC
   SpO2: 96%
   ABG: ////
   Physical Examination
   GENERAL: Pleasant, well appearing,in NAD
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**].
   LUNGS: Tachypnic, unlabored, wheezing improved, rhonchi at RL bases
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact.
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   263 K/uL
   11.4 g/dL
   118 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.8 mEq/L
   11 mg/dL
   107 mEq/L
   143 mEq/L
   36.5 %
   8.2 K/uL
        [image002.jpg]
                             [**2142-8-17**]  03:33 AM
                             [**2142-8-18**]  05:19 AM
   WBC
   17.1
   11.0
   Hct
   33.1
   33.3
   Plt
   252
   244
   Cr
   1.1
   1.0
   Glucose
   183
   109
   Other labs: PT / PTT / INR:15.0/131.0/1.3, Ca++:9.2 mg/dL, Mg++:1.8
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PNEUMONIA, OTHER
   This is a 62 year-old man with esophageal cancer metastatic to the
   lungs and brain who presents with shortness of breath and fever.
   .
   #  Shortness of breath/Hypoxia:  Most likely represents pneumonia.
   Also on the differential would be progression of his metastatic lung
   disease, however the acute presentation with associated fever and
   leukocytosis would go against this, although a post-obstructive
   pneumonia is certainly a possibility.  Also, with underlying
   malignancy, tachycardia, low-grade temp, and hypoxia, as well as
   history of PE, cannot rule out PE here; however the patient is on
   chronic lovenox.
   - cont supplemental O2 as needed, wean FI02 as possible
   - continue spirometry
   - albuterol and atrovent nebs prn
   - cont vancomycin, cefepime, tobramycin to cover empirically for HCAP
   - urinary legionella negative: d/ced azithromycin
   - cont. outpatient regimen of lovenox
   .
   #  Fever/Leukocytosis:  Most likely source at this point is a bacterial
   pneumonia.  Other potenial sources include Portacath infection or UTI.
   GNR bacteremia in one blood cx from the ED.  Given immunosuppression on
   chronic prednisone need to also consider viral or fungal etiologies as
   well. PCP less likely given he is on dapsone prophylaxis.
   - tobramycin added to vanco and cefepime for double coverage against
   GNR such as pseudomonas
   - tobramycin 1.8, will increase dose today and switch to once daily
   dose
   - cont to monitor fever curve and WBC
   - tylenol prn fever
   - f/u blood culture: speciation and susceptibility of GNR
   - send UA, urine culture pending
   - send sputum culture if able
   .
   #  Esophageal cancer:
   - will touch base with his primary oncologist's office (though the
   oncologist is currently out of town) on Monday
   -cont. dapsone prophylaxis as patient is chronically immunosuppressed
   - cont prednisone 10mg [**Hospital1 **] for symptoms of mild adrenal insufficiency
   following Dexamethasone taper s/p total brain radiation as per patient,
   as per neuro-oncologist
s note prednisone was started [**3-19**] concern for
   postradiation lung fibrosis
   .
   #  Diabetes Type II:
   - will cover with humalog sliding scale
   - assess insulin requirements and consider long-acting if needed
   .
   ICU Care
   Nutrition: full liquid
   Glycemic Control:  HSSI
   Lines:
   Indwelling Port (PortaCath) - [**2142-8-16**] 09:54 PM
   20 Gauge - [**2142-8-16**] 09:55 PM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer:  protonix
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition: to floor when respiratory status is stable

2142-08-19 08:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Stable, O2 needs remain very high though unchanged
   No new complaints
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2142-8-18**] 10:43 AM
   Tobramycin - [**2142-8-18**] 10:00 PM
   Vancomycin - [**2142-8-19**] 07:57 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2142-8-18**] 08:00 PM
   Enoxaparin (Lovenox) - [**2142-8-19**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-8-19**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.1
   HR: 96 (81 - 102) bpm
   BP: 137/86(98) {95/75(82) - 138/92(102)} mmHg
   RR: 24 (20 - 35) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,530 mL
                                                                    401 mL
   PO:
                                                                  1,140 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,390 mL
                                                                    281 mL
   Blood products:
   Total out:
                                                                  2,950 mL
                                                                    675 mL
   Urine:
                                                                  2,950 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -420 mL
                                                                   -274 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 91% with 6 LPM and high-flow shovel mask
   ABG: ///23/
   Physical Examination
   Awake, alert, mild resp distress at rest
   Heent unremarkable
   Neck supple
   Lungs exp wheezes
   Hrt rrr
   Abd benign
   Extrem no edema
   Labs / Radiology
   11.4 g/dL
   263 K/uL
   118 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.8 mEq/L
   11 mg/dL
   107 mEq/L
   143 mEq/L
   36.5 %
   8.2 K/uL
        [image002.jpg]
                             [**2142-8-17**]  03:33 AM
                             [**2142-8-18**]  05:19 AM
                             [**2142-8-19**]  05:27 AM
   WBC
   17.1
   11.0
   8.2
   Hct
   33.1
   33.3
   36.5
   Plt
   [**Telephone/Fax (3) 7520**]
   Cr
   1.1
   1.0
   1.0
   Glucose
   183
   109
   118
   Other labs: PT / PTT / INR:12.2/31.1/1.0, Differential-Neuts:75.1 %,
   Lymph:17.7 %, Mono:6.7 %, Eos:0.3 %, Ca++:9.2 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.1 mg/dL
   Assessment and Plan
 PNEUMONIA / hypoxemia / bacteremia
 cont abx
 vanco, cefepime,
   tobramycin
 follow trough, wean O2 as tolerated, cont nebs, follow
   surveillance cultures, consider echo
   No convincing signs of improvement yet
 may need to consider other
   explanations such as PCP, [**Name10 (NameIs) 609**], lymphangitic spread of tumor,
   eosinophilic pna
 bronchoscopy not an option
   h/o PE
 continue lovenox
   metastatic esophageal cancer
 apparently no further treatment options
   DM -  SSI
   ICU Care
   Nutrition: eating
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2142-8-16**] 09:54 PM
   20 Gauge - [**2142-8-16**] 09:55 PM
   Prophylaxis:
   DVT: sc lovenox
   Stress ulcer:  ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR, aggreeable to intubation
   Disposition :   ICU
   Total time spent:  35

2142-08-20 06:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**8-18**]
   - unable to wean O2
   - nutrition consult pending
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2142-8-19**] 10:23 AM
   Vancomycin - [**2142-8-19**] 08:36 PM
   Tobramycin - [**2142-8-20**] 02:14 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2142-8-19**] 08:36 PM
   Enoxaparin (Lovenox) - [**2142-8-20**] 12:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-8-20**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.4
C (97.5
   HR: 93 (72 - 112) bpm
   BP: 116/85(93) {99/67(75) - 137/87(98)} mmHg
   RR: 11 (11 - 30) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,751 mL
                                                                    164 mL
   PO:
                                                                    960 mL
             TF:
   IVF:
                                                                    791 mL
                                                                    164 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                    300 mL
   Urine:
                                                                  2,500 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -749 mL
                                                                   -136 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 92%
   ABG: ////
   Physical Examination
   GENERAL: Pleasant, well appearing ..... in NAD
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**].  JVP=
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Preserved sensation
   throughout. 5/5 strength throughout. [**2-16**]+ reflexes, equal BL. Normal
   coordination. Gait assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   263 K/uL
   11.4 g/dL
   118 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.8 mEq/L
   11 mg/dL
   107 mEq/L
   143 mEq/L
   36.5 %
   8.2 K/uL
        [image002.jpg]
                             [**2142-8-17**]  03:33 AM
                             [**2142-8-18**]  05:19 AM
                             [**2142-8-19**]  05:27 AM
   WBC
   17.1
   11.0
   8.2
   Hct
   33.1
   33.3
   36.5
   Plt
   [**Telephone/Fax (3) 7520**]
   Cr
   1.1
   1.0
   1.0
   Glucose
   183
   109
   118
   Other labs: PT / PTT / INR:12.2/31.1/1.0, Differential-Neuts:75.1 %,
   Lymph:17.7 %, Mono:6.7 %, Eos:0.3 %, Ca++:9.2 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.1 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PNEUMONIA, OTHER
   This is a 62 year-old man with esophageal cancer metastatic to the
   lungs and brain who presents with shortness of breath and fever.
   .
   #  Shortness of breath/Hypoxia:  Most likely represents pneumonia.
   Also on the differential would be progression of his metastatic lung
   disease, however the acute presentation with associated fever and
   leukocytosis would go against this, although a post-obstructive
   pneumonia is certainly a possibility.  Also, with underlying
   malignancy, tachycardia, low-grade temp, and hypoxia, as well as
   history of PE, cannot rule out PE here; however the patient is on
   chronic lovenox.
   - cont supplemental O2 as needed, wean FI02 as possible
   - continue spirometry
   - albuterol and atrovent nebs prn
   - cont vancomycin, cefepime, tobramycin to cover empirically for HCAP
   - urinary legionella negative: d/ced azithromycin
   - cont. outpatient regimen of lovenox
   .
   #  Fever/Leukocytosis:  Most likely source at this point is a bacterial
   pneumonia.  Other potenial sources include Portacath infection or UTI.
   GNR bacteremia in one blood cx from the ED.  Given immunosuppression on
   chronic prednisone need to also consider viral or fungal etiologies as
   well. PCP less likely given he is on dapsone prophylaxis.
   - tobramycin added to vanco and cefepime for double coverage against
   GNR such as pseudomonas
   - tobramycin 1.8, will increase dose today and switch to once daily
   dose
   - cont to monitor fever curve and WBC
   - tylenol prn fever
   - f/u blood culture: speciation and susceptibility of GNR
   - send UA, urine culture pending
   - send sputum culture if able
   .
   #  Esophageal cancer:
   - will touch base with his primary oncologist's office (though the
   oncologist is currently out of town) on Monday
   -cont. dapsone prophylaxis as patient is chronically immunosuppressed
   - cont prednisone 10mg [**Hospital1 **] for symptoms of mild adrenal insufficiency
   following Dexamethasone taper s/p total brain radiation as per patient,
   as per neuro-oncologist
s note prednisone was started [**3-19**] concern for
   postradiation lung fibrosis
   .
   #  Diabetes Type II:
   - will cover with humalog sliding scale
   - assess insulin requirements and consider long-acting if needed
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2142-8-16**] 09:54 PM
   20 Gauge - [**2142-8-16**] 09:55 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2142-08-22 06:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - CT chest showed bilateral small- moderate pleural effusions, not
   consistent with level of hypoxemia
   - LENIs to assess for DVT although concern for PE very low
   - ABG show hypoxemia with high Aa gradient; no methemoglobinemia
   - still unable to get in touch with primary oncologist
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash;
   Last dose of Antibiotics:
   Tobramycin - [**2142-8-20**] 10:48 AM
   Vancomycin - [**2142-8-21**] 08:00 PM
   Cefipime - [**2142-8-22**] 12:00 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2142-8-21**] 12:00 PM
   Pantoprazole (Protonix) - [**2142-8-21**] 08:00 PM
   Furosemide (Lasix) - [**2142-8-21**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-8-22**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 87 (87 - 119) bpm
   BP: 109/73(82) {103/70(80) - 135/88(99)} mmHg
   RR: 27 (18 - 35) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                  1,500 mL
                                                                    166 mL
   PO:
                                                                    760 mL
             TF:
   IVF:
                                                                    740 mL
                                                                    166 mL
   Blood products:
   Total out:
                                                                  2,950 mL
                                                                    300 mL
   Urine:
                                                                  2,950 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,450 mL
                                                                   -134 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 90%
   ABG: 7.49/34/68/27/2
   PaO2 / FiO2: 85
   Physical Examination
   GENERAL: Pleasant, NAD, lying in bed asleep
   HEENT: MMM, PERRL, oropharynx clear, NC and Face Mask in place, no
   scleral icterus, neck supple,no thyromegally, no palpable
   lymphadenopathy
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**]; no visibile JVP
   LUNGS: Decreased sounds in RLL both anteriorly and posteriorly,
   +egophony over right lung fields, +inspiratory wheezes
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.  No erythema over lower
   extremities. .
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact.
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   300 K/uL
   12.0 g/dL
   155 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.3 mEq/L
   17 mg/dL
   102 mEq/L
   139 mEq/L
   37.6 %
   8.9 K/uL
        [image002.jpg]
                             [**2142-8-17**]  03:33 AM
                             [**2142-8-18**]  05:19 AM
                             [**2142-8-19**]  05:27 AM
                             [**2142-8-20**]  05:41 AM
                             [**2142-8-21**]  06:06 AM
                             [**2142-8-21**]  02:33 PM
                             [**2142-8-22**]  04:19 AM
   WBC
   17.1
   11.0
   8.2
   6.6
   7.9
   8.9
   Hct
   33.1
   33.3
   36.5
   34.7
   35.9
   39
   37.6
   Plt
   [**Telephone/Fax (3) 7541**]55
   275
   300
   Cr
   1.1
   1.0
   1.0
   1.0
   1.0
   1.1
   TCO2
   27
   Glucose
   183
   109
   118
   117
   114
   155
   Other labs: PT / PTT / INR:12.6/31.2/1.1, Differential-Neuts:75.1 %,
   Lymph:17.7 %, Mono:6.7 %, Eos:0.3 %, LDH:248 IU/L, Ca++:9.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   MICRO: Cx
s negative to date except for pan sensitive GNR BCx on [**8-16**]
   RADS: CXR:
   Assessment and Plan
 PNEUMONIA, OTHER
   This is a 62 year-old man with esophageal cancer metastatic to the
   lungs and brain who presents with shortness of breath and fever.
   .
   #  Shortness of breath/Hypoxia:  O2 requirement increasing.  Etiologies
   include V/Q mismatch or shunt.  Most likely represents pneumonia, but
   also need to consider metastatic lung disease/ postobstructive
   pneumonia, PE (hx of PE and malignancy although patient is on lovenox),
   intracardiac shunt.    Respiratory status has not significantly
   improved and CXR shows worsening infiltrate on RLL which may partially
   be atelectatic and vascular congestion. Tobramycin discontinued, GNR
   pansensitive. TTE no PFO or cardiac shunt. LENI
s negative.
   - cont supplemental O2 as needed, wean FI02 as possible
   - continue spirometry
   - albuterol and atrovent nebs prn
   - gentle diuresis with goal of -500 cc fluid balance
   - cont vancomycin (day 5) and cefepime (day 4) to cover empirically for
   HCAP
 continue Cefepime for 14 days.
   - cont. outpatient regimen of lovenox
   - will discuss with family this afternoon about increased O2
   requirement and future goals of care.
   .
   #  Fever/Leukocytosis:  Resolved.  After fever in [**Name (NI) **], pt afebrile for
   entire LOS in ICU, now day 6.  Leukocytosis has resolved (17.1
8.9)
   Most likely cause is bacterial pneumonia.  Other potenial sources
   include Portacath.  No evidence for UTI.  GNR bacteremia
 pansensitive
   - in one blood cx from the ED.  Given immunosuppression on chronic
   prednisone need to also consider viral or fungal etiologies as well.
   PCP less likely given he is on dapsone prophylaxis.
   - monitor for fever and WBC
   - tylenol prn fever
   #  Esophageal cancer:
   - Will call primary Oncologist again today to see if we can arrange
   family meeting.
   -cont. dapsone prophylaxis as patient is chronically immunosuppressed;
   check ABG to see if patient has significant methehemoglobinemia
   contributing to hypoxia
   - cont prednisone 10mg [**Hospital1 **] for symptoms of mild adrenal insufficiency
   following Dexamethasone taper s/p total brain radiation as per patient,
   as per neuro-oncologist
s note prednisone was started [**3-19**] concern for
   postradiation lung fibrosis
   .
   #  Diabetes Type II:
   - will cover with humalog sliding scale
   - assess insulin requirements and consider long-acting if needed
   ICU Care
   Nutrition: regular
   Glycemic Control:  sliding scale insulin
   Lines:
   Indwelling Port (PortaCath) - [**2142-8-16**] 09:54 PM
   20 Gauge - [**2142-8-20**] 02:08 PM
   Prophylaxis:
   DVT:  lovenox
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR, but can intubate for short periods
   Disposition: Pending family discussion

2142-08-23 05:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2142-8-22**] 10:00 AM
   LENI
 BLOOD CULTURED - At [**2142-8-22**] 06:23 PM
   -family meeting with ICU team and pt
s primary oncologist.  Decision
   was made for DNI.
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash;
   Last dose of Antibiotics:
   Tobramycin - [**2142-8-20**] 10:48 AM
   Vancomycin - [**2142-8-22**] 08:20 PM
   Cefipime - [**2142-8-23**] 12:09 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2142-8-22**] 12:14 PM
   Pantoprazole (Protonix) - [**2142-8-22**] 08:20 PM
   Furosemide (Lasix) - [**2142-8-23**] 12:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-8-23**] 05:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 91 (76 - 114) bpm
   BP: 108/78(83) {98/59(69) - 123/91(97)} mmHg
   RR: 24 (14 - 34) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                  1,560 mL
                                                                    109 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                    840 mL
                                                                    109 mL
   Blood products:
   Total out:
                                                                    950 mL
                                                                    625 mL
   Urine:
                                                                    950 mL
                                                                    625 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    610 mL
                                                                   -517 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 91%
   ABG: ////
   Physical Examination
   GENERAL: Pleasant, NAD, lying in bed asleep
   HEENT: MMM, PERRL, oropharynx clear, NC and Face Mask in place, no
   scleral icterus, neck supple,no thyromegally, no palpable
   lymphadenopathy, no circumoral cyanosis
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**];
   LUNGS: Decreased sounds in RLL both anteriorly and posteriorly,
   +egophony over right lung fields, inspiratory wheezes R>L
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses. Warm, well perfused
   SKIN: No rashes/lesions, ecchymoses.  No erythema over lower
   extremities. .
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact.
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   310 K/uL
   12.0 g/dL
   150 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.3 mEq/L
   22 mg/dL
   103 mEq/L
   138 mEq/L
   36.9 %
   9.2 K/uL
        [image002.jpg]
                             [**2142-8-17**]  03:33 AM
                             [**2142-8-18**]  05:19 AM
                             [**2142-8-19**]  05:27 AM
                             [**2142-8-20**]  05:41 AM
                             [**2142-8-21**]  06:06 AM
                             [**2142-8-21**]  02:33 PM
                             [**2142-8-22**]  04:19 AM
                             [**2142-8-23**]  04:15 AM
   WBC
   17.1
   11.0
   8.2
   6.6
   7.9
   8.9
   9.2
   Hct
   33.1
   33.3
   36.5
   34.7
   35.9
   39
   37.6
   36.9
   Plt
   [**Telephone/Fax (3) 7541**]55
   275
   300
   310
   Cr
   1.1
   1.0
   1.0
   1.0
   1.0
   1.1
   TCO2
   27
   Glucose
   183
   109
   118
   117
   114
   155
   Other labs: PT / PTT / INR:13.5/35.6/1.2, Differential-Neuts:75.1 %,
   Lymph:17.7 %, Mono:6.7 %, Eos:0.3 %, LDH:248 IU/L, Ca++:9.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   MICRO: No new data
   RADS: No new studies
   Assessment and Plan
 PNEUMONIA, OTHER
   This is a 62 year-old man with esophageal cancer metastatic to the
   lungs and brain who presents with shortness of breath and fever.
   .
   #  Shortness of breath/Hypoxia:  O2 requirement at 80% Facemask +6L by
   NC, but reduced to 50%  +6L NC this morning. Unclear whether
   improvement is temporary or possible recovery. Etiologies include V/Q
   mismatch or shunt.  Most likely represents pneumonia, but also need to
   consider metastatic lung disease/ postobstructive pneumonia, PE (hx of
   PE and malignancy although patient is on lovenox), intracardiac
   shunt.    Respiratory status has not significantly improved and CXR
   shows worsening infiltrate on RLL which may partially be atelectatic
   and vascular congestion. Tobramycin discontinued, GNR pansensitive. TTE
   no PFO or cardiac shunt. LENI
s negative.
   - cont supplemental O2 as needed, wean FI02 as possible
   - continue spirometry
   - albuterol and atrovent nebs prn
   - continue lasix  10 mg [**Hospital1 **] to gently diurese. Monitor creatinine for
   elevation.
   - Last day Vancomycin today (day 8), continue cefepime (day 7) for 14
   days total for GNR positive blood cx.
   - cont. outpatient regimen of lovenox
   #  Fever/Leukocytosis:  Resolved.  After fever in [**Name (NI) **], pt afebrile for
   entire LOS in ICU, now day 6.  Leukocytosis has resolved (17.1
8.9)
   Most likely cause is bacterial pneumonia.  Other potenial sources
   include Portacath.  No evidence for UTI.  GNR bacteremia
 pansensitive
   - in one blood cx from the ED.  Given immunosuppression on chronic
   prednisone need to also consider viral or fungal etiologies as well.
   PCP less likely given he is on dapsone prophylaxis.
   - Continue Cefepime for one week.
   - monitor for fever and WBC
   - tylenol prn fever
   #  Esophageal cancer:
   - primary oncologist at family mtg yesterday, will email him with any
   updates.
   cont. dapsone prophylaxis as patient is chronically immunosuppressed;
   check ABG to see if patient has significant methehemoglobinemia
   contributing to hypoxia
   - cont prednisone 10mg [**Hospital1 **] for symptoms of mild adrenal insufficiency
   following Dexamethasone taper s/p total brain radiation as per patient,
   as per neuro-oncologist
s note prednisone was started [**3-19**] concern for
   postradiation lung fibrosis
   .
   #  Diabetes Type II:
   - will cover with humalog sliding scale
   - assess insulin requirements and consider long-acting if needed
   ICU Care
   Nutrition: regular
   Glycemic Control:  sliding scale insulin
   Lines:
   Indwelling Port (PortaCath) - [**2142-8-16**] 09:54 PM
   20 Gauge - [**2142-8-20**] 02:08 PM
   Prophylaxis:
   DVT:  lovenox
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition:  Continue ICU care

2142-08-24 06:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Varying oxygen requirements, however no acute events
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2142-8-23**] 08:16 AM
   Cefipime - [**2142-8-23**] 12:22 PM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2142-8-23**] 12:23 PM
   Furosemide (Lasix) - [**2142-8-23**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-8-24**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98
   HR: 99 (94 - 110) bpm
   BP: 111/81(85) {96/53(62) - 131/86(94)} mmHg
   RR: 25 (17 - 29) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                  1,070 mL
                                                                     43 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                    590 mL
                                                                     43 mL
   Blood products:
   Total out:
                                                                  1,850 mL
                                                                    400 mL
   Urine:
                                                                  1,850 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -780 mL
                                                                   -357 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 89%
   ABG: ///28/
   Physical Examination
   GENERAL: Pleasant, NAD, lying in bed asleep
   HEENT: MMM, PERRL, oropharynx clear, NC and Face Mask in place, no
   scleral icterus, neck supple,no thyromegally, no palpable
   lymphadenopathy, no circumoral cyanosis
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**];
   LUNGS: Decreased sounds in RLL and RUL both anteriorly and posteriorly,
   however RLL with more breath sounds than yesterday. +egophony over
   right lung fields, inspiratory wheezes R>L
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses. Warm, well perfused
   SKIN: No rashes/lesions, ecchymoses.  No erythema over lower
   extremities. .
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact.
   Labs / Radiology
   335 K/uL
   11.7 g/dL
   151 mg/dL
   1.2 mg/dL
   28 mEq/L
   4.2 mEq/L
   26 mg/dL
   103 mEq/L
   141 mEq/L
   36.1 %
   9.4 K/uL
        [image002.jpg]
                             [**2142-8-20**]  05:41 AM
                             [**2142-8-21**]  06:06 AM
                             [**2142-8-21**]  02:33 PM
                             [**2142-8-22**]  04:19 AM
                             [**2142-8-23**]  04:15 AM
                             [**2142-8-23**]  08:00 AM
                             [**2142-8-23**]  12:00 PM
                             [**2142-8-23**]  05:27 PM
                             [**2142-8-23**]  06:00 PM
                             [**2142-8-24**]  04:42 AM
   WBC
   6.6
   7.9
   8.9
   9.2
   9.4
   Hct
   34.7
   35.9
   39
   37.6
   36.9
   36.1
   Plt
   255
   275
   300
   310
   335
   Cr
   1.0
   1.0
   1.1
   1.1
   1.2
   1.2
   TCO2
   27
   Glucose
   117
   114
   155
   150
   134
   124
   107
   151
   Other labs: PT / PTT / INR:13.5/35.6/1.2, Differential-Neuts:75.1 %,
   Lymph:17.7 %, Mono:6.7 %, Eos:0.3 %, LDH:248 IU/L, Ca++:9.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   CXR: RLL consolidation/infiltrate, R sided effusion, Interval decrease
   in pulmonary edema in both Right and Left lung fields.
   MICRO: No new positive cultures
   Assessment and Plan
 HYPOXEMIA
 PNEUMONIA, OTHER
   This is a 62 year-old man with esophageal cancer metastatic to the
   lungs and brain who presents with shortness of breath and fever. He has
   been requiring 50-80% oxygen by face mask + 6L O2 NC, with some signs
   of improvement over the last 24 hours.
   .
   #  Shortness of breath/Hypoxia:  Pt on 50% by face mask + 6L O2 NC this
   morning, in no distress.  Pt has had multiple discussions with social
   work/palliative care.  He inquired about transfer to floor this morning
   and then home for palliative/hospice care. Creatinine increased from
   1.1 to 1.2.  Unclear whether improvement is temporary or possible
   recovery. Etiologies include V/Q mismatch or shunt.  Most likely
   represents pneumonia, but also need to consider metastatic lung
   disease/ postobstructive pneumonia, PE (hx of PE and malignancy
   although patient is on lovenox), intracardiac shunt.    Respiratory
   status has not significantly improved and CXR shows worsening
   infiltrate on RLL which may partially be atelectatic and vascular
   congestion. Tobramycin discontinued, GNR pansensitive. TTE no PFO or
   cardiac shunt. LENI
s negative.
   - cont supplemental O2 as needed, wean FI02 as possible
   - continue spirometry
   - albuterol and atrovent nebs prn
   - Change lasix to 20 mg PO qam for diuresis
monitor creatinine as
   starting to increase.
   - Continue cefepime (day 9) for 14 days total for GNR positive blood
   cx. Vancomycin decreased.
   - cont. outpatient regimen of lovenox
   - discuss plan with palliative care/social work to get pt to floor and
   then home with high flow oxygen if possible.  Try to transfer to OMED
   due to many cancer related issues.
   - reevaluate CT Chest to evaluate for possible palliative intervention
   such as stent, however unlikely pt a candidate
   #  Fever/Leukocytosis:  Resolved.  After fever in [**Name (NI) **], pt afebrile for
   entire LOS in ICU, now day 6.  Leukocytosis has resolved (17.1
8.9)
   Most likely cause is bacterial pneumonia.  Other potenial sources
   include Portacath.  No evidence for UTI.  GNR bacteremia
 pansensitive
   - in one blood cx from the ED.  Given immunosuppression on chronic
   prednisone need to also consider viral or fungal etiologies as well.
   PCP less likely given he is on dapsone prophylaxis.
   - Continue Cefepime for one week.
   - monitor for fever and WBC
   - tylenol prn fever
   #  Esophageal cancer:
   - primary oncologist at family mtg [**8-23**], will email him with any
   updates. No plan to escalate treatment of esophageal cancer.
   - cont. dapsone prophylaxis as patient is chronically immunosuppressed;
   check ABG to see if patient has significant methehemoglobinemia
   contributing to hypoxia
   - cont prednisone 10mg [**Hospital1 **] for symptoms of mild adrenal insufficiency
   following Dexamethasone taper s/p total brain radiation as per patient,
   as per neuro-oncologist
s note prednisone was started [**3-19**] concern for
   postradiation lung fibrosis
   #  Diabetes Type II:
   - will cover with humalog sliding scale
   - assess insulin requirements and consider long-acting if needed
   ICU Care
   Nutrition: regular
   Glycemic Control:  SSI
   Lines:
   Indwelling Port (PortaCath) - [**2142-8-16**] 09:54 PM
   20 Gauge - [**2142-8-20**] 02:08 PM
   Prophylaxis:
   DVT: Lovenox
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  DNR/DNI
   Disposition: Possible transfer to OMED